US05244908
Synthesis of 5-[3-(benzenesulfonamido)propyloxy]imidazo[1,2-a]pyridine (Compound 170)
To a suspension of 5-[3-(amino)propyloxy]imidazo[1,2-a]pyridine dihydrochloride (2.64 g, 10 mmoles) and triethylamine (4.88 ml, 35 mmoles) in methylene chloride (100 ml)-acetonitrile (30 ml) was added benzenesulfonyl chloride (1.53 ml, 12 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 1 hour. The reaction mixture was washed in turn with an aqueous sodium bicarbonate solution and saturated saline and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the crude product thus obtained was recrystallized from methylene-ethanol to obtain 1.97 g of the desired product (59.5%, light brown crystals).

reactant | 5-[3-(amino)propyloxy]imidazo[1,2-a]pyridine dihydrochloride | 10 mmoles, 2.64 g | Cl.Cl.NCCCOC1=CC=CC=2N1C=CN2
reactant | triethylamine | 35 mmoles, 4.88 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | benzenesulfonyl chloride | 12 mmoles, 1.53 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(benzenesulfonamido)propyloxy]imidazo[1,2-a]pyridine | 1.97 g, 59.5% | C1(=CC=CC=C1)S(=O)(=O)NCCCOC1=CC=CC=2N1C=CN2 | C16H17N3O3S
